US04337256
1-(4-Chlorophenyl)isoquinoline-5-acetonitrile (2.6 g) was dissolved in 20 ml of diethyl carbonate, and 1.0 g of 50% oily sodium hydride was added. Then, 10 ml of dimethylsulfoxide was added, and 1.5 g of methyl iodide was added under cooling with water. The mixture was stirred for 1 hour. The reaction mixture was poured into water, extracted with ether, and dried. The solvent was distilled off. The resulting oily product was recrystallized from ether-hexane to afford ethyl 2-[1-(4-chlorophenyl)isoquinolin-5-yl]-2-cyanopropionate as colorless prisms having a melting point of 92° to 93.5° C.

reactant | 1-(4-Chlorophenyl)isoquinoline-5-acetonitrile | 2.6 g | ClC1=CC=C(C=C1)C1=NC=CC=2C(=CC=CC12)CC#N | C17H11ClN2
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
reactant | methyl iodide | 1.5 g | CI | CH3I
reactant | diethyl carbonate | 20 ml | C(OCC)(OCC)=O | C5H10O3
solvent | water | O | H2O
product | ethyl 2-[1-(4-chlorophenyl)isoquinolin-5-yl]-2-cyanopropionate | ClC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)C(C(=O)OCC)(C)C#N | C21H17ClN2O2
